US08207164B2
j) [5-(3-Amino-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of [5-(3-azido-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (497 mg, 1.50 mmol) in EtOAc (37 ml) was hydrogenated using Lindlar catalyst (10 h, room temperature). The mixture was filtered through Celite, and the filtrate was evaporated under reduced pressure yielding the title compound in the form of a colourless solid. 1H-NMR (500 MHz, DMSO-d6): 9.57 (br, 1H), 6.97 (br, 1H), 6.55 (s, 1H), 6.52 (d, 1H), 6.45 (br, 1H), 5.08 (br, 2H), 4.40-4.30 (m, 2H), 3.75-3.45 (m, 2H), 1.47 (s, 3H), 1.39 (s, 9H); MS: 306 [(M+H)+].

reactant | [5-(3-azido-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 1.50 mmol, 497 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)N=[N+]=[N-])=O | C16H21N5O3
solvent | EtOAc | 37 ml | CCOC(=O)C | C4H8O2
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | [5-(3-Amino-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)N)=O | C16H23N3O3
